US06362341B1
Synthesis of N-(Toluene-4-sulfonyl)-L-prolyl-L-phenylalanine N-(Toluene-4-sulfonyl)amide
N-(Toluene-4-sulfonyl)-L-proline was reacted with L-phenylalanine amide using the procedure described in Method 12 to yield N-(toluene-4-sulfonyl)-L-prolyl-L-phenylalanine amide. To a solution of NaH (60% mineral oil—prewashed with THF) in THF at 0° C. was added N-(toluene-4-sulfonyl)-L-prolyl-L-phenylalanine amide and the reaction was stirred at 0° C. for 45 minutes. Toluene-4-sulfonyl chloride was added and the reaction was stirred for 16 hours at room temperature. The reaction mixture was extracted with EtOAc (3×50 mL) and 0.2 N HCl (50 mL), and the combined organic layers were washed successively with sat. NaHCO3 (50 mL), and sat. NaCl (2×50 mL), dried over MgSO4, filtered, and concentrated to yield the title compound as an oil.

reactant | NaH | [H-].[Na+]
reactant | N-(toluene-4-sulfonyl)-L-prolyl-L-phenylalanine amide | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N)CCC1)C | C21H25N3O4S
reactant | Toluene-4-sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | THF | C1CCOC1 | C4H8O
product | N-(Toluene-4-sulfonyl)-L-prolyl-L-phenylalanine N-(Toluene-4-sulfonyl)amide | C1(=CC=C(C=C1)S(=O)(=O)NC([C@@H](NC([C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)=O)CC1=CC=CC=C1)=O)C | C28H31N3O6S2
